US08802704B2
Step 1: 3-[(ethylamino)methyl]benzonitrile
3-(Bromomethyl)benzonitrile (20.0 g, 0.1 mol) was added portion wise into a 2M solution of ethylamine in THF (150 mL) at 0° C. After 5 hours, the reaction mixture was concentrated under vacuum. The residue was taken up with water and extracted with DCM. The organic layer was dried over sodium sulphate and evaporated under reduced pressure to afford the title compound as yellow liquid (12 g, 73%). 1H NMR (DMSO-d6, 400 MHz) δ 7.75 (s, 1H), 7.67 (d, 2H), 7.50 (m, 1H), 3.71 (s, 2H), 2.46 (m, 2H), 0.99 (m, 3H).

reactant | 3-(Bromomethyl)benzonitrile | 0.1 mol, 20.0 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-[(ethylamino)methyl]benzonitrile | 12 g, 73% | C(C)NCC=1C=C(C#N)C=CC1 | C10H12N2
